US04048311
Reaction of methyl 5-sulfopentyldithiocarbamate potassium salt with sodium azide as described in Example 7 gave 1-(5-sulfopentyl)tetrazole-5-thiol.

reactant | methyl 5-sulfopentyldithiocarbamate potassium salt | [K].S(=O)(=O)(O)CCCCCNC(SC)=S
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
product | 1-(5-sulfopentyl)tetrazole-5-thiol | S(=O)(=O)(O)CCCCCN1N=NN=C1S | C6H12N4O3S2
